US05643913
5-Propynyluracil
To a stirred solution of 2'-deoxy-5-propynyluridine (European Patent Specification No. 272065) (20 g, 75 mmol) in aqueous phosphate buffer at pH 6.84 (1250 mL) was added purified E. coli thymidine phosphorylase (10,000 units) (T. A. Krenitsky et al, Biochemistry, 20, 3615, 1981; U.S. Pat. No. 4,381,344) and alkaline phosphatase (10,000 units) [Sigma type VII-S from bovine intestinal mucosa] and the whole mixture was incubated at 37° C. for 24 hours. The resulting white precipitate was filtered, washed with water (3×100 mL), ethanol (2×100 mL), ether (2×100 mL) and dried in vacuo over phosphorus pentoxide to give the title compound.

reactant | 2'-deoxy-5-propynyluridine | C(#CC)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C12H14N2O5
solvent | phosphate | P(=O)([O-])([O-])[O-]
product | 5-Propynyluracil | C(#CC)C=1C(NC(NC1)=O)=O | C7H6N2O2
